US07018537B2
4-{[((1R, 2R)-2-Aminocyclohexyl]amino}-2,5,6-trichloro-1,3-dicyanobenzene
To the suspension of 2,4,5,6-tetrachloro-1,3-dicyanobenzene (2.0 g, 7.52 mmol) and triethylamine (5 ml) in methyl cyanide (40 ml) is added a solution of (1R,2R)-diaminocyclohexane (0.85 g, 7.52 mmol) in methyl cyanide (10 ml). The mixture is mixed for 60 min. at 120° C., then cooled to room temperature and the water (10 ml) is slowly added. After cooling in a refrigerator the solid is recovered on a G4 filter and washed with water-methyl cyanide (1:1) and with methyl cyanide. Finally, the product is vacuum-dried on KOH tablets. 2.32 g (89%) of pale yellow powder are obtained, dec. at a temp. greater than 190° C.

reactant | 2,4,5,6-tetrachloro-1,3-dicyanobenzene | 7.52 mmol, 2.0 g | ClC1=C(C(=C(C(=C1C#N)Cl)Cl)Cl)C#N | C8Cl4N2
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | (1R,2R)-diaminocyclohexane | 7.52 mmol, 0.85 g | C1CC[C@H]([C@@H](C1)N)N | C6H14N2
reactant | water | 10 ml | O | H2O
solvent | methyl cyanide | 40 ml | CC#N | C2H3N
solvent | methyl cyanide | 10 ml | CC#N | C2H3N
product | [((1R, 2R)-2-Aminocyclohexyl]amino}-2,5,6-trichloro-1,3-dicyanobenzene | 2.32 g, 89% | N[C@H]1[C@@H](CCCC1)NC1=C(C(=C(C(=C1Cl)Cl)C#N)Cl)C#N | C14H13Cl3N4
